US09290451B2
b) 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid and 1-piperidinamine (CAN 2213-43-6) as starting materials, MS (LC/MS): 316.2 [M+H]+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C18H25N3O2
